US08471016B2
(3R)-3-[[(1R)-1-phenylethyl]amino]-4-(2,4,5-trifluorophenyl)-butanoic acid [D]
tert-Butyl (3R)-3-[[(1R)-1-phenylethyl]amino]-4-(2,4,5-trifluorophenyl)-butanoate maleate salt [C] (50 g) was stirred in a mixture of water (250 ml) and conc. sulfuric acid (16 ml) at 70° C. for 2 hours. The pH was adjusted to 4.2±0.2 with aqueous sodium hydroxide solution and then to 7.0±0.2 with ammonia solution. Filtered the solid and purified by suspending in water at 25±5° C. for 1 hr. Filtered and dried to yield 31.3 g (94.5% theoretical yield) of titled product [D], m.p. 144° C., purity by HPLC: 98.8%.

reactant | tert-Butyl (3R)-3-[[(1R)-1-phenylethyl]amino]-4-(2,4,5-trifluorophenyl)-butanoate maleate salt | 50 g | C(\C=C/C(=O)O)(=O)O.C1(=CC=CC=C1)[C@@H](C)N[C@@H](CC(=O)OC(C)(C)C)CC1=C(C=C(C(=C1)F)F)F
reactant | sulfuric acid | 16 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ammonia | N | H3N
solvent | water | 250 ml | O | H2O
product | (3R)-3-[[(1R)-1-phenylethyl]amino]-4-(2,4,5-trifluorophenyl)-butanoic acid | C1(=CC=CC=C1)[C@@H](C)N[C@@H](CC(=O)O)CC1=C(C=C(C(=C1)F)F)F | C18H18F3NO2
